US07381840B2
To a stirred solution of benzeneruthenium(II) chloride dimer (3.10 mg, 0.006 mmol) and (1S, 2R)-(−)-cis-1-amino-2-indanol (3.7 mg, 0.025 mmol) in degaussed isopropanol was heated at 80° C. for 20 minutes under argon. The mixture was added to the solution of 8-amino-3,4-dihydronaphthalen-2(1H)-one (50 mg, 0.310 mmol) in isopropanol (3 mL) at room temperature. A solution of potassium hydroxide (3.48 mg, 0.062 mmol) in isopropanol (1 mL) was added, and the mixture was stired at 45° C. for 1 hour. The mixture was passed through silica gel and washed with ethylacetate. The filtrate was concentrated under reduced pressure to afford the 8-amino-1,2,3,4-tetrahydro-naphthalen-2-ol chiral enantiomer (33.0 mg, 65% yield).

reactant | (1S, 2R)-(−)-cis-1-amino-2-indanol | 0.025 mmol, 3.7 mg | C1[C@H]([C@H](C2=CC=CC=C21)N)O | C9H11NO
reactant | 8-amino-3,4-dihydronaphthalen-2(1H)-one | 0.310 mmol, 50 mg | NC=1C=CC=C2CCC(CC12)=O | C10H11NO
reactant | potassium hydroxide | 0.062 mmol, 3.48 mg | [OH-].[K+]
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
catalyst | benzeneruthenium(II) chloride dimer | 0.006 mmol, 3.10 mg | C1=CC=CC=C1.C1=CC=CC=C1.Cl[Ru]Cl.Cl[Ru]Cl
product | 8-amino-1,2,3,4-tetrahydro-naphthalen-2-ol | 65% yield | NC=1C=CC=C2CCC(CC12)O | C10H13NO
